US09421205B2
(d) Ethyl 2-(4-chloropyrimidin-5-yl)acetate (I108)
To ethyl 2-(6-oxo-1,6-dihydropyrimidin-5-yl)acetate (I107) (0.868 g, 4.77 mmol) was added POCl3 (6 mL) under an atmosphere of nitrogen and the resulting mixture was heated to reflux for 5 minutes and then cooled to room temperature. The reaction was slowly added to water (300 mL), the aqueous solution was extracted with DCM (3×100 mL), the combined organics were washed with brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound (I108) (0.885 g, 93% yield) as a pale yellow oil; 1H NMR (400 MHz, CDCl3) δ 8.93 (s, 1H), 8.61 (s, 1H), 4.21 (q, J=7.1 Hz, 2H), 3.76 (s, 2H), 1.28 (t, J=7.1 Hz, 3H). LCMS Method C: rt 5.09 min; m/z 201.1, 203.1 [M+H]+.

reactant | ethyl 2-(6-oxo-1,6-dihydropyrimidin-5-yl)acetate | 4.77 mmol, 0.868 g | O=C1C(=CN=CN1)CC(=O)OCC | C8H10N2O3
reactant | POCl3 | 6 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | water | 300 mL | O | H2O
product | Ethyl 2-(4-chloropyrimidin-5-yl)acetate | 93% yield | ClC1=NC=NC=C1CC(=O)OCC | C8H9ClN2O2
